data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_110868_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:10])[O:8][H:9])=[O:7]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:7][H:9])[C:4]([C:3]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:10])[O:8]1,53.1567800000154
MR_417950_1,[N:1]1([H:8])[C:2](=[C:6]([H:12])[H:13])/[C:3](=[N:7]\[H:9])[C:5]([H:11])=[C:4]1[H:10]>>[N:1]1([H:8])[C:2](=[C:6]([H:12])[H:13])[C:4]([H:10])=[C:5]([H:11])/[C:3]1=[N:7]/[H:9],0.9205424999586852
MR_289879_1,[C:1]([C:3](=[C:2]([O:6][H:10])[O:7][H:9])[N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2]([O:6][H:10])([O:7][H:9])[C@:3]1([N:4]([H:11])[H:12])[C:5](=[O:8])[H:13],69.79996250001378
MR_584375_2,[C:1]([C:3]([O:5][N:4]([H:11])[H:12])=[O:8])([O:6][C:2]([H:13])([H:14])[H:15])([O:7][H:9])[H:10]>>[C:1]([C:3]([O:6][C:2]([H:13])([H:14])[H:15])=[O:8])([O:5][N:4]([H:11])[H:12])([O:7][H:9])[H:10],70.77007750002565
MR_344131_0,[C:1](/[C:2]([O:3][O:4][H:6])=[N:5]\[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([N:5]([H:6])[H:7])[O:3][O:4]1)([H:8])([H:9])[H:10],34.7101625000046
MR_460040_0,[C:1]([O:2][N:3]=[O:4])([H:5])([H:6])[H:7]>>[C:1]([O:4][N:3]=[O:2])([H:5])([H:6])[H:7],41.59760250000424
MR_386339_0,[C:1]([O:7][C:2]([O:6][N:8]=[C:3]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])=[O:9])([H:14])([H:15])[H:16]>>[C:1]([O:7][C:3]([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[N:8]1[C:2](=[O:9])[O:6]1)([H:14])([H:15])[H:16],66.25144999998426
MR_58625_0,[C:1](/[C:3](=[C:4](\[C:2]([O:5][H:8])=[O:7])[H:10])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:6][H:9])[C:4]([H:10])=[C:2]([O:5][H:8])[O:7]1)([H:11])([H:12])[H:13],49.96970749996507
MR_663233_1,[C:1](=[C:4](/[N:2]([H:9])[H:10])[H:12])(\[O:5][C:3](=[O:7])[H:11])[O:6][H:8]>>[C:1]([C:4]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:11])[H:12])(=[O:5])[O:6][H:8],33.50599000001296
MR_628616_0,[C:1]([C:3](/[N:6]=[N:7]\[C:4]([C:2]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])=[N:8]\[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]12[C:5]([H:16])([H:17])[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7][N:6]1[N:8]2[H:9])([H:10])([H:11])[H:12],39.20368999996669
MR_495441_0,[C:1]([C:2]([C:3]([C:5]([N:4]([O:6][H:9])[H:11])([O:8][H:10])[H:15])([H:16])[H:17])([H:13])[H:14])(=[O:7])[H:12]>>[C:1]([C:2]([C:3]([C:5](=[O:8])[H:15])([H:16])[H:17])([H:13])[H:14])([N:4]([O:6][H:9])[H:11])([O:7][H:10])[H:12],24.56411500001039
MR_91425_2,[C:1]1([C:5]([O:7][H:9])=[O:8])([N:6]([H:11])[H:12])[C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[C:3]1([H:13])[H:14]>>[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([O:7][H:9])=[O:8])[H:10])(=[C:3]([H:13])[H:14])[N:6]([H:11])[H:12],68.49539000002594
MR_321176_1,[C@:1]1([C@@:3]([C:5]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:12])[H:11])([H:9])[C@:2]([C:4]([H:13])([H:14])[H:15])([H:10])[O:7]1>>[C:1]1([C:3]([C:5]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:12])[H:11])([H:9])[C:2]([C:4]([H:13])([H:14])[H:15])([H:10])[O:7]1,61.32432000001117
MR_225125_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[C:5]([C:2]([N:7]([H:11])[H:12])([H:13])[H:14])([N:6]([H:9])[H:10])[O:8]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:5]([C:2]([N:7]([H:11])[H:12])([H:13])[H:14])=[O:8])[N:6]([H:9])[H:10],43.15066499998892
MR_457813_1,[C:1](/[C:4]([N:6]([H:10])[H:11])=[C:8](\[N:7]([H:12])[H:13])[H:16])(/[C:5]([C:2]([H:18])([H:19])[H:20])=[C:9](\[C:3]([H:21])([H:22])[H:23])[H:17])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:4]([N:6]([H:10])[H:11])([C:8]([N:7]([H:12])[H:13])([H:16])[H:21])[C:5]1([C:2]([H:18])([H:19])[H:20])[C:9](=[C:3]([H:22])[H:23])[H:17],44.85934750002656
MR_312151_0,[C:1](/[C:4]([O:7][H:10])=[N:8]\[C:3](=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:6][H:9])([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([O:7][H:10])[C@@:5]([C:2]([H:15])([H:16])[H:17])([H:11])[C:3]([O:6][H:9])=[N:8]1)([H:12])([H:13])[H:14],27.450614999999203
MR_198730_1,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([O:8][H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([N:7]([H:12])[H:13])=[O:9]>>[C:1]([C:2](=[O:8])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([C:5]([H:20])([H:21])[H:22])([N:7]([H:12])[H:13])[O:9][H:10],71.06876749998492
MR_625621_0,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:6](/[C:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([C:5](=[O:9])[H:11])[H:13])[H:12])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])(/[C:6](=[C:7](/[C:5](=[O:9])[H:11])[H:13])[H:12])[H:10],47.83369749997192
MR_215021_0,[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])([C:8]([C:3]([C:2]([N:7]=[O:9])([H:13])[H:14])([H:15])[H:16])([C:6]([H:23])([H:24])[H:25])[O:10][H:11])[H:12]>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])([N:7]([C:2]([C:3]([C:8]([C:6]([H:23])([H:24])[H:25])=[O:10])([H:15])[H:16])([H:13])[H:14])[O:9][H:11])[H:12],60.86561750002787
